US04075165
196.3 g of 2,4,6-triethyl-2,6-dimethyl-1,2,5,6-tetrahydropyrimidine were added dropwise to 300 ml of concentrated hydrochloric acid at 30° - 40° C, with stirring. When all of the tetrahydropyrimidine had been added, the entire mixture was stirred for 4 - 5 hours and then neutralized with sodium carbonate and extracted with benzene. The resulting benzene solution was washed, in turn, with a 5% aqueous solution of sodium carbonate and with water, and was then dried over potassium carbonate. After removing the benzene, the residue was distilled under reduced pressure, giving 72.4 g of 5-amino-5-methyl-3-heptanone (bp 46° - 48° C/2.5 mmHg).

reactant | 2,4,6-triethyl-2,6-dimethyl-1,2,5,6-tetrahydropyrimidine | 196.3 g | C(C)C1(NC(CC(=N1)CC)(C)CC)C | C12H24N2
reactant | tetrahydropyrimidine | N1CNCC=C1 | C4H8N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 300 ml | Cl | ClH
product | 5-amino-5-methyl-3-heptanone | 72.4 g | NC(CC(CC)=O)(CC)C | C8H17NO
